US07776869B2
Step 1: N-(2-morpholinoethyl)-3-nitro-5-(trifluoromethyl)benzamide
A mixture of 3-nitro-5-(trifluoromethyl)benzoic acid (300 mg, 1.29 mmol, 1.0 equiv) and thionyl chloride (2.0 ml) was heated at 75° C. for 1 h. The solvent was removed in vacuo and the residue taken up in CH2Cl2 (5.0 ml). To the solution was added 2-morpholinoethanamine (185 mg, 1.42 mmol, 1.1 equiv) and triethylamine (0.54 ml, 3.86 mmol, 3.0 equiv). After the reaction was complete, the solution was diluted with CH2Cl2 (ca. 10 ml) and washed with water and brine. After drying with Na2SO4 and concentration in vacuo, the resulting N-(2-morpholinoethyl)-3-nitro-5-(trifluoromethyl)benzamide was advanced without further purification. MS m/z: 348 (M+H+); Calculated for C14H16F3N3O4: 347.1

reactant | 3-nitro-5-(trifluoromethyl)benzoic acid | 1.29 mmol, 300 mg, 1.0 equiv | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-morpholinoethanamine | 1.42 mmol, 185 mg, 1.1 equiv | O1CCN(CC1)CCN | C6H14N2O
reactant | triethylamine | 3.86 mmol, 0.54 ml, 3.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | ca. 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-morpholinoethyl)-3-nitro-5-(trifluoromethyl)benzamide | O1CCN(CC1)CCNC(C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])=O | C14H16F3N3O4
